US04943616
benzoyl peroxide;
t-butyl cumyl peroxide; di(cumylperoxide); t-amyl hydroperoxide, 2,5-di(hydroperoxy)-2,5-dimethylhexane, 3,3-dimethyl-2-methylhydroperoxybutene-1;2,7-di(hydroperoxy)-2,7-dimethyloctane, diphenylhydroperoxymethane; benzylhydroperoxide;

reactant | t-butyl cumyl peroxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C | C13H20O2
reactant | t-amyl hydroperoxide | C(C)(C)(CC)OO | C5H12O2
reactant | 2,5-di(hydroperoxy)-2,5-dimethylhexane | O(O)C(C)(CCC(C)(C)OO)C | C8H18O4
reactant | 2,7-di(hydroperoxy)-2,7-dimethyloctane | O(O)C(C)(CCCCC(C)(C)OO)C | C10H22O4
reactant | diphenylhydroperoxymethane | C1(=CC=CC=C1)C(OO)C1=CC=CC=C1 | C13H12O2
reactant | benzylhydroperoxide | C(C1=CC=CC=C1)OO | C7H8O2
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
